US07919519B2
5-Benzylbenzothiophene (step 1 in Scheme A-7)
5-Bromobenzothiophene (2.13 g, 10 mmol) was dissolved in a THF solution of benzyl zinc(II) bromide (0.5M, 10 mL, 20 mmol) in a microwave reaction tube. Pd(PtBu3)2 (255 mg, 0.5 mmol) was added to this solution. The mixture was purged with N2 gas for 3-5 minutes and heated at 100° C. for 30 minutes under microwave irradiation. Upon completion of the reaction, the reaction mixture was diluted with ethyl acetate (150 mL), washed with 1N HCl aqueous solution, brine, filtered through Celite. The filtrate was dried over Na2SO4 and concentrated. The residue was purified by silica gel column chromatography (ISCO system, 5% EtOAc in hexanes) to give the desired product (65% yield): 1H NMR (400 MHz, CDCl3) δ 7.79 (d, J=8.4 Hz, 1H), 7.63 (s, 1H), 7.40 (d, J=5.6 Hz, 1H), 7.18-7.30 (m, 7H), 4.10 (s, 2H).

reactant | 5-Bromobenzothiophene | 10 mmol, 2.13 g | BrC=1C=CC2=C(C=CS2)C1 | C8H5BrS
reactant | benzyl zinc(II) bromide | 20 mmol, 0.5M, 10 mL | [Br-].C(C1=CC=CC=C1)[Zn+]
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PtBu3)2 | 0.5 mmol, 255 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 5-Benzylbenzothiophene | 65% yield | C(C1=CC=CC=C1)C=1C=CC2=C(C=CS2)C1 | C15H12S
